US05688795
A mixture of benzyl 3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino-formate dihydrochloride (481 g, 1.05 mol) and potassium carbonate (630 mL, 5.5N, 3.15 mol) in 4L of ethyl acetate was stirred at room temperature for 1 hour. The mixture was washed with water (1×630 mL), treated with silica gel (200 g) and filtered. The filtrate was concentrated under reduced pressure to give benzyl 3-[4-(2-methoxyphenyl)piperazin-1-yl]propylaminoformate (385.9 g, 1.01 mol) as an oil.

reactant | benzyl 3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino-formate dihydrochloride | 1.05 mol, 481 g | Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCNC(=O)OCC1=CC=CC=C1
reactant | potassium carbonate | 3.15 mol, 5.5N, 630 mL | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl 3-[4-(2-methoxyphenyl)piperazin-1-yl]propylaminoformate | 1.01 mol, 385.9 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCNC(=O)OCC1=CC=CC=C1 | C22H29N3O3
